US07776897B2
tert-Butyl {1-methyl-1-[4-methyl-5-(2-methylphenyl)-1,2,4-triazol-3-yl]ethyl}carbamate was reacted with a 4M hydrochloric acid-ethyl acetate solution in ethanol under heating to obtain 2-[4-methyl-5-(2-methylphenyl)-1,2,4-triazol-3-yl]propan-2-amine dihydrochloride.

reactant | tert-Butyl {1-methyl-1-[4-methyl-5-(2-methylphenyl)-1,2,4-triazol-3-yl]ethyl}carbamate | CC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C)NC(OC(C)(C)C)=O | C18H26N4O2
reactant | hydrochloric acid ethyl acetate | 4M | Cl.C(C)(=O)OCC
solvent | ethanol | C(C)O | C2H6O
product | 2-[4-methyl-5-(2-methylphenyl)-1,2,4-triazol-3-yl]propan-2-amine dihydrochloride | Cl.Cl.CN1C(=NN=C1C1=C(C=CC=C1)C)C(C)(C)N | InChI=1S/C13H18N4.2ClH/c1-9-7-5-6-8-10(9)11-15-16-12(17(11)4)13(2,3)14;;/h5-8H,14H2,1-4H3;2*1H
